US07888364B2
Procedure G was used to couple 4-chloro-3-(pyridin-2-yl)aniline (50 mg) and 4-[(dimethylamino)sulfonyl]benzoic acid to produce N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-[(dimethylamino)sulfonyl]-benzamide. MS (Q1) 416.0 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 50 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-[(dimethylamino)sulfonyl]benzoic acid | CN(S(=O)(=O)C1=CC=C(C(=O)O)C=C1)C | C9H11NO4S
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-[(dimethylamino)sulfonyl]-benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)S(=O)(=O)N(C)C)=O)C1=NC=CC=C1 | C20H18ClN3O3S
